US06911468B2
(3) 4-[1-(4-Decyloxyphenethyl)-5-methyl-1H-pyrrol-2-yl]phenol
To a solution of 2-(4-benzyloxyphenyl)-1-(4-decyloxyphenyl)-5-methyl-1H-pyrrole (1.70 g, 3.43 mmol) in ethanol (60 ml) and tetrahydrofuran (30 ml) was added 10% palladium carbon (200 mg) and the mixture was stirred for 4 hours under hydrogen atmosphere. The insoluble matter was filtered out and the filtrate was concentrated to give the object compound as an oily substance. 1.30 g (yield: 93.5%)

reactant | 2-(4-benzyloxyphenyl)-1-(4-decyloxyphenyl)-5-methyl-1H-pyrrole | 3.43 mmol, 1.70 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)C1=CC=C(C=C1)OCCCCCCCCCC | C34H41NO2
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 200 mg | [C].[Pd]
product | 4-[1-(4-Decyloxyphenethyl)-5-methyl-1H-pyrrol-2-yl]phenol | yield: 93.5% | C(CCCCCCCCC)OC1=CC=C(CCN2C(=CC=C2C)C2=CC=C(C=C2)O)C=C1 | C29H39NO2
